US05972946
Preparation of 2-(5-nitro-2-phenyl-4-pyrimidinylamino)-N,N-dipropylacetamide:
A mixture of 4-chloro-5-nitro-2-phenylpyrimidine (6.0 g), 2-amino-N,N-dipropylacetamide (6.0 g), triethylamine (5.2 g) and isopropanol (70 ml) is refluxed for six hours. The reaction mixture is concentrated under reduced pressure, and to the residue are added chloroform and water. The chloroform layer is collected, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from ethanol to give the desired compound (8.8 g), m.p. 142-143° C.

reactant | 4-chloro-5-nitro-2-phenylpyrimidine | 6.0 g | ClC1=NC(=NC=C1[N+](=O)[O-])C1=CC=CC=C1 | C10H6ClN3O2
reactant | 2-amino-N,N-dipropylacetamide | 6.0 g | NCC(=O)N(CCC)CCC | C8H18N2O
reactant | triethylamine | 5.2 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 2-(5-nitro-2-phenyl-4-pyrimidinylamino)-N,N-dipropylacetamide | 8.8 g | [N+](=O)([O-])C=1C(=NC(=NC1)C1=CC=CC=C1)NCC(=O)N(CCC)CCC | C18H23N5O3
